US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine (Compound 140)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(2-chlorophenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 85%). 1H NMR (300 MHz, CDCl3): δ 2.49 (s, 3H), 3.08-3.17 (m, 4H), 3.73-3.86 (m, 4H), 4.13 (s, 3H), 7.00-7.65 (m, 7H), 7.74 (d, J=8.0 Hz, 1H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(2-chlorophenyl)piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine | 85% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl | C21H22ClN5O2
